US07250433B2
To a solution of [1-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-spiro[2.5]oct-1-ylmethyl]-carbamic acid tert-butyl ester (4.30 g, 13.3 mmol) in 1,4-dioxane (90 mL) was added 4N HCl in 1,4-dioxane (45 mL). The solution was stirred for 18 hours, ether (200 mL) was added and the precipitate isolated by vacuum filtration. The residue was chromatographed on a wet-packed silica gel column (5.5×30 cm) eluting with 80:20:5 CH2Cl2/MeOH/NH4OH. The appropriate fractions were combined and evaporated under reduced pressure. The solid was stirred with 1N HCl in ether (150 mL). The solid was isolated by vacuum filtration, dried in a vacuum oven at 48° C. to give 2.22 g (64%) of 3-(1-aminomethyl-spiro[2.5]oct-1-yl)-4H-[1,2,4]oxadiazol-5-one hydrochloride as a white solid: mp: 179-181° C. (decomposition); 1H NMR (300 MHz, CD3OD) δ 1.05 (d, J=5.8 Hz, 1H), 1.21 (m, 1H), 1.41 (d, J=5.8 Hz, 1H), 1.4-1.72 (m, 9H), 3.12 (d, J=14 Hz, 1H), 3.54 (d, J=14 Hz, 1H); MS (APCI) m/z 224 [M+H]+. Anal. Calc'd For C11H17N3O2—HCl: C, 50.52; H, 7.01; N, 16.07; Cl, 13.56. Found: C, 50.23; H, 7.05; N, 15.89; Cl, 13.53.

reactant | [1-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-spiro[2.5]oct-1-ylmethyl]-carbamic acid tert-butyl ester | 13.3 mmol, 4.30 g | C(C)(C)(C)OC(NCC1(CC12CCCCC2)C2=NOC(N2)=O)=O | C16H25N3O4
reactant | HCl | 4N | Cl | ClH
reactant | ether | 200 mL | CCOCC | C4H10O
solvent | 1,4-dioxane | 90 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 45 mL | O1CCOCC1 | C4H8O2
product | 3-(1-aminomethyl-spiro[2.5]oct-1-yl)-4H-[1,2,4]oxadiazol-5-one hydrochloride | 2.22 g, 64% | Cl.NCC1(CC12CCCCC2)C2=NOC(N2)=O | InChI=1S/C11H17N3O2.ClH/c12-7-11(8-13-9(15)16-14-8)6-10(11)4-2-1-3-5-10;/h1-7,12H2,(H,13,14,15);1H
